US05726306
In substantially the same manner as in Example 8 (1), 15 g of 2-amino-2',5-dichlorobenzophenone was allowed to react with 5-oxotetrahydrofuran-2-carbonyl chloride to afford 18.1 g of 2',5-dichloro-2-(5-oxotetrahydrofuran-2-carbonyl) aminobenzophenone, m.p. 170° C.-173° C.

reactant | 2-amino-2',5-dichlorobenzophenone | 15 g | NC1=C(C(=O)C2=C(C=CC=C2)Cl)C=C(C=C1)Cl | C13H9Cl2NO
reactant | 5-oxotetrahydrofuran-2-carbonyl chloride | O=C1CCC(O1)C(=O)Cl | C5H5ClO3
product | 2',5-dichloro-2-(5-oxotetrahydrofuran-2-carbonyl) aminobenzophenone | 18.1 g | ClC1=C(C=CC=C1)C(C1=C(C=CC(=C1)Cl)NC(=O)C1OC(CC1)=O)=O | C18H13Cl2NO4
